US07816371B2
a. 2-(1,3-Dihydroxypropan-2-yl)-5-nitroisoquinolin-1(2H)-one
5-nitro-isochromen-1-one (4.2 g, 0.022 mol) and Serinol (2.0 g, 0.022 mol) were refluxed in methanol (40 mL, 1 mol) for 1 hour. TLC showed that all of the starting material was consumed. Triethylamine (5 mL, 0.04 mol) was added to the mixture and the reaction mixture was refluxed overnight. The volatiles were removed via rotovapor, and the residue was purified by flash column chromatography (40 g of silica gel, 0-50% EtOAc/Hexane), and gave a green yellow solid. MS m/z=264.7 (M+1).

reactant | 5-nitro-isochromen-1-one | 0.022 mol, 4.2 g | [N+](=O)([O-])C1=C2C=COC(C2=CC=C1)=O | C9H5NO4
reactant | Serinol | 0.022 mol, 2.0 g | NC(CO)CO | C3H9NO2
reactant | methanol | 1 mol, 40 mL | CO | CH4O
reactant | Triethylamine | 0.04 mol, 5 mL | C(C)N(CC)CC | C6H15N
product | 2-(1,3-Dihydroxypropan-2-yl)-5-nitroisoquinolin-1(2H)-one | OCC(CO)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O | C12H12N2O5
